US09399647B2
To 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetic acid (100 mg, 0.000315 mol) in anhydrous THF (10 ml) 2M dimethyl amine in THF (0.017 g, 0.000378 mol) and HOBt (0.051 g, 0.000378 mol) were added. This mixture was cooled to 0° C. and then treated with EDC HCl (0.120 g, 0.00063 mol). The reaction mixture was allowed to warm to room temperature and kept stirred for 16 h. After completion, the reaction was diluted with water (50 ml) and extracted with ethyl acetate (25 ml×3). Combined organic extracts were washed with water (50 ml), dried over anhydrous Na2SO4 and concentrated under vacuum to get crude compound. It was then purified by column chromatography by using 100-200 mesh silica gel. Pure compound was eluted in 1-2% MeOH: DCM to afford 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)-N,N-dimethylacetamide as a pale yellow oil. Yield—50 mg, (46.29%); 1H-NMR: (400 MHz, CDCl3); δ=3.97 (s, 2H), 3.04 (s, 3H), 3.01 (s, 3H), 2.97 (s, 3H), 2.89-2.80 (m, 5H), 1.92-1.86 (m, 2H), 1.77-1.71 (m, 2H), 0.72-0.67 (m, 2H), 0.45-0.41 (m, 2H); LC-MS [M+H]=345.3; HPLC purity=98.78%.

reactant | 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetic acid | 0.000315 mol, 100 mg | C1(CC1)N(C=1C2=C(N=C(N1)CC(=O)O)SC1=C2CCCC1)C | C16H19N3O2S
reactant | HOBt | 0.000378 mol, 0.051 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 0.00063 mol, 0.120 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 2M, 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | THF | 0.000378 mol, 0.017 g | C1CCOC1 | C4H8O
product | 2-(4-(cyclopropyl(methyl)amino)-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)-N,N-dimethylacetamide | C1(CC1)N(C=1C2=C(N=C(N1)CC(=O)N(C)C)SC1=C2CCCC1)C | C18H24N4OS
